US03960796
An aqueous alkaline dispersion useful as a polyester tire cord dip, the solids of the dispersion consisting essentially of a major amount by weight of a rubbery vinyl pyridine copolymer and an minor amount by weight of a heat reactable 2,6-bis(2,4-dihydroxy phenyl methyl)-4-chlorophenol composition made by the process of first reacting about 2 mols of formaldehyde with 1 mol of parachloro phenol to provide 2,6-dimethylol-4-chlorophenol which then is reacted with about 2 mols of resorcinol to give the heat reactable bis(dihydroxy phenylmethyl) chlorophenol composition.

reactant | vinyl pyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | 2,6-bis(2,4-dihydroxy phenyl methyl)-4-chlorophenol | OC1=C(C=CC(=C1)O)CC1=C(C(=CC(=C1)Cl)CC1=C(C=C(C=C1)O)O)O | C20H17ClO5
reactant | formaldehyde | about 2 mols | C=O | CH2O
reactant | parachloro phenol | 1 mol | ClC1=CC=C(C=C1)O | C6H5ClO
product | 2,6-dimethylol-4-chlorophenol | C(O)C1=C(C(=CC(=C1)Cl)CO)O | C8H9ClO3
